US04558129
One g of 1-[2-(1,4-benzodioxan-2-yl)-2-hydroxyethyl]-4-[(2,6-dimethylphenyl)aminocarbonylmethyl]piperazine is dissolved in 15 ml of pyridine and cooled in an ice bath to 0°-5° C. Acetic anhydride (0.6 g) is slowly added and the reaction mixture is stirred for 2 hr. After the addition of 100 ml of water, the reaction mixture is extracted twice with 100-ml portions of diethylether. After combining, the ether portion is washed twice with 100 ml of water and evaporated to dryness to produce 1-[2-(1,4-benzodioxan-2-yl)-2-acetoxyethyl]-4-[(2,6-dimethylphenyl)aminocarbonylmethyl]piperazine as an oil.

reactant | 1-[2-(1,4-benzodioxan-2-yl)-2-hydroxyethyl]-4-[(2,6-dimethylphenyl)aminocarbonylmethyl]piperazine | O1C(COC2=C1C=CC=C2)C(CN2CCN(CC2)CC(=O)NC2=C(C=CC=C2C)C)O | C24H31N3O4
reactant | Acetic anhydride | 0.6 g | C(C)(=O)OC(C)=O | C4H6O3
reactant | water | 100 ml | O | H2O
solvent | pyridine | 15 ml | N1=CC=CC=C1 | C5H5N
product | 1-[2-(1,4-benzodioxan-2-yl)-2-acetoxyethyl]-4-[(2,6-dimethylphenyl)aminocarbonylmethyl]piperazine | O1C(COC2=C1C=CC=C2)C(CN2CCN(CC2)CC(=O)NC2=C(C=CC=C2C)C)OC(C)=O | C26H33N3O5
